US05225431
(a) 3-Phenoxybenzamide
Triethylamine (5.6 g) was added at 0° C. under N2 to a stirred solution of 3-phenoxybenzoic acid (10.7 g, Aldrich) in THF (75 ml), followed by the addition of methyl chloroformate (4.7 g) at less than 5° C. After additions were complete, the mixture was stirred at 0° C. for 30 minutes. 0.88 Ammonia (30 ml) was added and the mixture stirred at room temperature for 20 hours, then evaporated in vacuo and the residue taken up in ethyl acetate (100 ml) and water (100 ml). The aqueous phase was separated, extracted with ethyl acetate and the combined ethyl acetate solutions washed with 5% w/v aqu. Na2CO3 (2×50 ml), 2N aqu. HCl (50 ml) and water (100 ml), dried over Na2SO4 and evaporated in vacuo to give the desired product as a colourless solid which was recrystallised from ethyl acetate/60-80 pet. ether (1:2 v/v), mp 125°-127° C. (6.5 g). The 200 MHz 1H NMR was consistent with the proposed structure.

reactant | Triethylamine | 5.6 g | C(C)N(CC)CC | C6H15N
reactant | 3-phenoxybenzoic acid | 10.7 g | O(C1=CC=CC=C1)C=1C=C(C(=O)O)C=CC1 | C13H10O3
reactant | methyl chloroformate | 4.7 g | ClC(=O)OC | C2H3ClO2
reactant | Ammonia | 30 ml | N | H3N
solvent | THF | 75 ml | C1CCOC1 | C4H8O
product | 3-Phenoxybenzamide | O(C1=CC=CC=C1)C=1C=C(C(=O)N)C=CC1 | C13H11NO2
